US07473786B1
4-Benzo[b]furan-2-yl-benzonitrile (entry 5, Table 2):
The general procedure was used to convert 4-Ethynyl-benzonitrile and 2-iodophenol to the title product. Purification by flash chromatography (20% ethyl acetate in hexanes as the eluent) gave the analytically pure product as a white solid (337 mg, 77% yield). 1H NMR (300 MHz, CDCl3) δ 7.94 (d, J=8.85, 2H), 7.71 (d, J=8.67, 2H), 7.62 (d, J=7.54, 1H), 7.53 (d, J=8.10, 1H), 7.38-7.24 (m, 2H), 7.16 (s, 1H). 13C NMR (75 MHz, CDCl3) δ 155.08, 153.37, 134.25, 132.45, 128.52, 125.45, 124.93, 123.34, 121.40, 118.66, 111.33, 111.28, 104.23. Anal. Calcd. for C15H9NO: C, 82.18; H, 4.14; N, 6.39. Found C, 81.98; H, 4.09; N, 6.15. m.p.: 149° C. (lit., 4145-146° C.).

reactant | 4-Ethynyl-benzonitrile | C(#C)C1=CC=C(C#N)C=C1 | C9H5N
reactant | 2-iodophenol | IC1=C(C=CC=C1)O | C6H5IO
product | 4-Benzo[b]furan-2-yl-benzonitrile | O1C2=C(C=C1C1=CC=C(C#N)C=C1)C=CC=C2 | C15H9NO
